US07612114B2
Synthesized from 5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenylamine and 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenyl]amine (458 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenyl]amine (324 mg). This compound (322 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (280 mg).

reactant | 5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenylamine | COC=1C=CC(=C(C1)N)C1=CC2=C(CCC1)C=C(C=C2)OC | C19H21NO2
reactant | 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl][5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenyl]amine | 458 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2=CC3=C(CCC2)C=C(C=C3)OC)C=C1 | C34H42N2O3
product | [4-(2-azepan-1-ylethoxy)benzyl]ethyl[5-methoxy-2-(2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl)phenyl]amine | 324 mg | N1(CCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2=CC3=C(CCC2)C=C(C=C3)OC)CC)C=C1 | C36H46N2O3
